US05360800
2,3,4,5-Tetrahydro-2-[(5-methyl-1H-imidazol-4-yl)methyl]-5-(2-propynyl)-1H-pyrido[4,3-b]indol-1-one maleate
A suspension of 2,3,4,5-tetrahydro-2-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-1H-pyrido[4,3-b]indol-1-one (522 mg) and potassium carbonate (276 mg) in dry acetone (75 ml) was treated with propargyl bromide (1M solution in acetone; 2 ml) and the mixture was heated at reflux overnight. After cooling, excess acetone was removed in vacuo to give an oil which was partitioned between water (100 ml) and ethyl acetate (100 ml). The aqueous phase was washed with ethyl acetate (50 ml) and the combined organic extracts were concentrated in vacuo. Deprotection, work-up and purification gave the free base of the title compound (100 mg) as a solid. Maleate formation gave the title compound (89 mg), m.p. 202°-205°, t.l.c. (System A, 100:8:1) Rf 0.29.

reactant | 2,3,4,5-tetrahydro-2-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-1H-pyrido[4,3-b]indol-1-one | 522 mg | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CN1C(C2=C(NC=3C=CC=CC23)CC1)=O | C35H30N4O
reactant | potassium carbonate | 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 1M, 2 ml | C(C#C)Br | C3H3Br
reactant | acetone | 75 ml | CC(=O)C | C3H6O
product | 2,3,4,5-Tetrahydro-2-[(5-methyl-1H-imidazol-4-yl)methyl]-5-(2-propynyl)-1H-pyrido[4,3-b]indol-1-one maleate | 100 mg | C(\C=C/C(=O)O)(=O)O.CC1=C(N=CN1)CN1C(C2=C(N(C=3C=CC=CC23)CC#C)CC1)=O | InChI=1S/C19H18N4O.C4H4O4/c1-3-9-23-16-7-5-4-6-14(16)18-17(23)8-10-22(19(18)24)11-15-13(2)20-12-21-15;5-3(6)1-2-4(7)8/h1,4-7,12H,8-11H2,2H3,(H,20,21);1-2H,(H,5,6)(H,7,8)/b;2-1-
